US07105544B2
METHYL (4S)-3-({[3-(4-[3-(ACETYLAMINO)PHENYL]-3,6-DIHYDRO-1(2H)-PYRIDINYL)PROPYL]AMINO}CARBONYL)-4-(3,4-DIFLUOROPHENYL)-6-(METHOXYMETHYL)-2-OXO-1,2,3,4-TETRAHYDRO-5-PYRIMIDINECARBOXYLATE
Prepared from the reaction of 5-methyl 1-(4-nitrophenyl) (6S)-6-(3,4-difluorophenyl)-4-(methoxymethyl)-2-oxo-3,6-dihydro-1,5(2H)-pyrimidinedicarboxylate (describe in PCT Publication No. WO 00/37026, published Jun. 29, 2000) and N-{3-[1-(3-aminopropyl)-1,2,3,6-tetrahydro-4-pyridinyl]phenyl}acetamide: 1H NMR δ 8.90 (t, 1H, J=3.6 Hz), 7.75 (s, 1H), 7.50–7.00 (m, 8H), 6.68 (s, 1H), 6.03 (br s, 1H), 4.67 (s, 2H), 3.71 (s, 3H), 3.47 (s, 3H), 3.38 (ABm, 2H), 3.16 (m, 2H), 2.71 (t, 2H, J=5.4 Hz), 2.56 (m, 4H), 2.35–1.90 (br, 2H), 2.17 (s, 3H), 1.82 (p, 2H, J=7.2 Hz); ESMS, 612.25 (M+H)+.

reactant | 5-methyl 1-(4-nitrophenyl) (6S)-6-(3,4-difluorophenyl)-4-(methoxymethyl)-2-oxo-3,6-dihydro-1,5(2H)-pyrimidinedicarboxylate | FC=1C=C(C=CC1F)[C@H]1C(=C(NC(N1C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])=O)COC)C(=O)OC | C21H17F2N3O8
reactant | N-{3-[1-(3-aminopropyl)-1,2,3,6-tetrahydro-4-pyridinyl]phenyl}acetamide | NCCCN1CCC(=CC1)C=1C=C(C=CC1)NC(C)=O | C16H23N3O
product | METHYL (4S)-3-({[3-(4-[3-(ACETYLAMINO)PHENYL]-3,6-DIHYDRO-1(2H)-PYRIDINYL)PROPYL]AMINO}CARBONYL)-4-(3,4-DIFLUOROPHENYL)-6-(METHOXYMETHYL)-2-OXO-1,2,3,4-TETRAHYDRO-5-PYRIMIDINECARBOXYLATE | C(C)(=O)NC=1C=C(C=CC1)C=1CCN(CC1)CCCNC(=O)N1C(NC(=C([C@@H]1C1=CC(=C(C=C1)F)F)C(=O)OC)COC)=O | C31H35F2N5O6
